US05552550
To a solution of 4.00 g (12.3 mmol) 1-bromo-7-hydroxymethyl-4-isopropoxy-5-methoxy-naphthalene in 40 mL dry dichloromethane, 3.24 g (12.3 mmol) triphenylphosphane and 4.00 g (12.3 mmol) 1,2-dibromotetrachloroethane were added under Ar. After stirring for 30 min at room temperature, the solvent was removed and subsequently the residue was filtered over a short silica gel column (petroleum/ethyl acetate, 4:1) to give 5.00 g (95%) 1-bromo-7-bromomethyl-4-isopropoxy-5-methoxy-naphthalene as a colorless solid (m.p. 126° C.).

reactant | 1-bromo-7-hydroxymethyl-4-isopropoxy-5-methoxy-naphthalene | 12.3 mmol, 4.00 g | BrC1=CC=C(C2=C(C=C(C=C12)CO)OC)OC(C)C | C15H17BrO3
reactant | triphenylphosphane | 12.3 mmol, 3.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,2-dibromotetrachloroethane | 12.3 mmol, 4.00 g | BrC(C(Br)(Cl)Cl)(Cl)Cl | C2Br2Cl4
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1-bromo-7-bromomethyl-4-isopropoxy-5-methoxy-naphthalene | 5.00 g, 95% | BrC1=CC=C(C2=C(C=C(C=C12)CBr)OC)OC(C)C | C15H16Br2O2
